US05212320
A solution of 4N-hydrogen chloride (1.5 ml) in ethyl acetate was added to a solution of 4-[3-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]butyric acid (3.0 g) in ethyl acetate (15 ml). The mixture was refrigerated for 16 hours to give 4-[3-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]butyric acid hydrochloride as yellow crystals (3.1 g).

reactant | hydrogen chloride | 1.5 ml | Cl | ClH
reactant | 4-[3-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]butyric acid | 3.0 g | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C40H44N2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 4-[3-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indol-1-yl]butyric acid hydrochloride | 3.1 g | Cl.C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | InChI=1S/C40H44N2O3.ClH/c1-27(2)23-29-14-18-31(19-15-29)39(32-20-16-30(17-21-32)24-28(3)4)41-34-10-7-9-33(25-34)40(45)36-26-42(22-8-13-38(43)44)37-12-6-5-11-35(36)37;/h5-7,9-12,14-21,25-28,39,41H,8,13,22-24H2,1-4H3,(H,43,44);1H
